US05861417
2.5.1 Synthesis of (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine
Prepare by the method of Example 1.5 using (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine and methanesulfonyl chloride to give the title compound.

reactant | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | COC1=C(C(=O)N2C[C@@](CC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C21H21Cl2N5O3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2C[C@@](CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C22H23Cl2N5O5S
